US06500863B1
2-benzyloxyethylamine
To a solution of ethanolamine (5 g, 81.8 mmol) in 100 mL of dried THF was added 60% NaH (3.27 g, 81.8mmol) at room temperature. The mixture was heated to reflux for 30min, then benzyl chloride (9.32 g, 73.6 mmol) was added. The resulting mixture was refluxed for 3 hours. The mixture was concentrated, the residue was diluted with 1 N aq. HCl, extracted with dichloromethane. The aqueous layer was adjusted to pH>14 with 10% aq. NaOH, extracted with dichloromethane. The organic was dried over MgSO4, concentrated to give desired product (10.11 g, 82%). 1H NMR (CDCl3): δ 7.34 (m, 5H), 4.54 (s, 2H), 3.54 (t, 2H), 2.93 (t, 2H).

reactant | ethanolamine | 81.8 mmol, 5 g | C(O)CN | C2H7NO
reactant | NaH | 81.8mmol, 3.27 g | [H-].[Na+]
reactant | benzyl chloride | 73.6 mmol, 9.32 g | C(C1=CC=CC=C1)Cl | C7H7Cl
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | 2-benzyloxyethylamine | 10.11 g, 82% | C(C1=CC=CC=C1)OCCN | C9H13NO
